US08835420B2
(S)-N6-(1-(6-(1-Cyclopropyl-1H-pyrazol-5-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)-9H-purine-2,6-diamine
(S)-1-(6-(1-Cyclopropyl-1H-pyrazol-5-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (166 mg, 0.590 mmol), 6-chloro-9H-purin-2-amine (100 mg, 0.590 mmol), and N-ethyl-N-isopropylpropan-2-amine (0.31 mL, 1.8 mmol) were combined in acetonitrile (6 mL). The reaction mixture was heated in a microwave reactor at 120° C. for 2 hours and then concentrated. The residue was taken up in DMF and was purified by preparative HPLC (acid mode) eluting with 10-15% ACN in water. The fractions containing the desired compound were combined and concentrated in vacuo. The residue was further purified by preparative HPLC (basic mode) eluting with 25-35% ACN in water. The fractions containing the desired product were combined and concentrated in vacuo to give the title compound as a white solid (23 mg, 9.2%). 1H NMR (500 MHz, CD3OD) δ ppm 0.59-0.75 (m, 2 H), 0.87-1.03 (m, 2H), 1.50 (d, J=6.35 Hz, 3 H), 3.38-3.47 (m, 1 H), 3.87 (d, J=0.98 Hz, 3 H), 5.56 (br s, 1 H), 6.44 (s, 1 H), 6.70 (d, J=2.93 Hz, 1 H), 7.54-7.71 (m, 3 H), 7.83 (s, 1 H); ESI-MS m/z [M+H]+ calc'd for C21H22N10, 415; found 415.

reactant | (S)-1-(6-(1-Cyclopropyl-1H-pyrazol-5-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.590 mmol, 166 mg | C1(CC1)N1N=CC=C1C=1C=C2C(=NC1[C@H](C)N)C=CN2C | C16H19N5
reactant | 6-chloro-9H-purin-2-amine | 0.590 mmol, 100 mg | ClC1=C2N=CNC2=NC(=N1)N | C5H4ClN5
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.8 mmol, 0.31 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (S)-N6-(1-(6-(1-Cyclopropyl-1H-pyrazol-5-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)-9H-purine-2,6-diamine | 23 mg, 9.2% | C1(CC1)N1N=CC=C1C=1C=C2C(=NC1[C@H](C)NC1=C3N=CNC3=NC(=N1)N)C=CN2C | C21H22N10
